US04296125
N-(2-(4-(4-chlorobenzoyl)-phenoxy)-2-methyl propanoyl)diethanolamine bis[2-(4-chlorophenoxy)-2-methyl propanoate]
A solution of 1.948 g (5.8 millimoles) of 2-(4-(4-chlorobenzoyl)-phenoxy)-2-methyl propanoyl chloride in 10 ml of methylic ether was slowly added to a solution containing ether was slowly added to a solution containing 2.9 g (5.8 millimoles) of amino diethyl bis-2-(4-chlorophenoxy)-2-methylpropanoate (prepared according to French Pat. No. 2,085,634) and 0.83 ml (6 millimoles) of triethylamine in 30 ml of ethylic ether kept at 0° C.

reactant | 2-(4-(4-chlorobenzoyl)-phenoxy)-2-methyl propanoyl chloride | 5.8 millimoles, 1.948 g | ClC1=CC=C(C(=O)C2=CC=C(OC(C(=O)Cl)(C)C)C=C2)C=C1 | C17H14Cl2O3
reactant | 2-(4-chlorophenoxy)-2-methylpropanoate | ClC1=CC=C(OC(C(=O)[O-])(C)C)C=C1
reactant | triethylamine | 6 millimoles, 0.83 ml | C(C)N(CC)CC | C6H15N
reactant | ether | 10 ml | CCOCC | C4H10O
reactant | ether | 30 ml | CCOCC | C4H10O
product | N-(2-(4-(4-chlorobenzoyl)-phenoxy)-2-methyl propanoyl)diethanolamine bis[2-(4-chlorophenoxy)-2-methyl propanoate] | ClC1=CC=C(OC(C(=O)O)(C)C)C=C1.ClC1=CC=C(OC(C(=O)O)(C)C)C=C1.ClC1=CC=C(C(=O)C2=CC=C(OC(C(=O)N(CCO)CCO)(C)C)C=C2)C=C1 | InChI=1S/C21H24ClNO5.2C10H11ClO3/c1-21(2,20(27)23(11-13-24)12-14-25)28-18-9-5-16(6-10-18)19(26)15-3-7-17(22)8-4-15;2*1-10(2,9(12)13)14-8-5-3-7(11)4-6-8/h3-10,24-25H,11-14H2,1-2H3;2*3-6H,1-2H3,(H,12,13)
